US04587256
161 mg of (±)-6-fluoro-8-amino-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione were dissolved in 3.5 ml of pyridine and esterified with 135 mg of undecanoyl chloride. After stirring at room temperature for 6 hours, the majority of the pyridine was removed in vacuo, the residue was extracted with three portions of ethyl acetate and two portions of 1N hydrochloric acid, the organic phases were washed neutral with water and with saturated sodium chloride solution, dried with sodium sulfate and concentrated. The residue was chromatographed on silica gel with chloroform/methanol (19:1). With Rf =0.27 there were eluted 182 mg of material in the form of a resin which yielded, from methanol, (±)-6-fluoro-8-undecylamido-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione in the form of colorless crystals of melting point 69°-71° C.

reactant | (±)-6-fluoro-8-amino-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | 161 mg | FC=1C=C(C2=C(C1)C1(C(NC(S1)=O)=O)CCO2)N | C11H9FN2O3S
reactant | undecanoyl chloride | 135 mg | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
product | (±)-6-fluoro-8-undecylamido-2,3-dihydrospiro[4H-1-benzopyran-4,5'-thiazolidine]-2',4'-dione | FC=1C=C(C2=C(C1)C1(C(NC(S1)=O)=O)CCO2)NC(CCCCCCCCCC)=O | C22H29FN2O4S
